US06930187B2
Synthesis of [1S-[1R*,3R*(E),7R*,10S*,11R*,12R*,16S*]]-3-[2-[2-(Aminomethyl)-4-thiazolyl]-1-methylethenyl]-7,11-dihydroxy-8,8,10,12,16-pentamethyl-4,17-dioxabicyclo[14.1.0]heptadecane-5,9-dione
To a stirred suspension of epothilone F (10 g, 19.1 mmol) in tetrahydrofuran (200 ml) under argon, chilled in an ice bath to 5° C. or below, was added diphenylphosphoryl azide (6.20 ml, 7.90 g, 28.6 mmol, 1.5 equivalents). The mixture was stirred for approximately 10 min. 1,8-diazabicyclo[5.4.0]undec-7-ene (3.43 ml, 3.53 g, 22.8 mmol, 1.2 equivalents) was then added gradually at a rate that maintained the temperature of the mixture below 8° C. The mixture was stirred for 30 min., then allowed to warm to 20° C. and stirred for 18 hours. To the reaction mixture was added a solution of 1.0 M trimethylphosphine in tetrahydrofuran (21 ml, 18.3 g, 21 mmol, 1.1 equivalents), which generated a mild exotherm with gas evolution. The mixture was allowed to stir at 20° C. for 30 minutes, and water (52 ml) was added. After 30 minutes, 28% aqueous NH4OH (26.5 ml) was added. After stirring at 25° C. for another 30 minutes, water (100 ml) was added, and the mixture was extracted with methylene chloride (3×100 ml). The combined organic extracts were washed with 1.0 M aqueous ammonium hydroxide (2×100 ml), and then with half-saturated aqueous sodium chloride (100 ml). The solvents were removed on a rotary evaporator, and the residue dried in vacuo for 18 hours.

reactant | epothilone F | 19.1 mmol, 10 g | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CO)/C)C | C27H41NO7S
reactant | diphenylphosphoryl azide | 28.6 mmol, 6.20 ml, 7.90 g, 1.5 equivalents | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 22.8 mmol, 3.43 ml, 3.53 g, 1.2 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trimethylphosphine | 1.0 M | CP(C)C | C3H9P
reactant | NH4OH | 26.5 ml | [NH4+].[OH-]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 21 mmol, 21 ml, 18.3 g, 1.1 equivalents | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 52 ml | O | H2O
product | 3-[2-[2-(Aminomethyl)-4-thiazolyl]-1-methylethenyl]-7,11-dihydroxy-8,8,10,12,16-pentamethyl-4,17-dioxabicyclo[14.1.0]heptadecane-5,9-dione | NCC=1SC=C(N1)C=C(C)C1CC2OC2(CCCC(C(C(C(C(C(CC(O1)=O)O)(C)C)=O)C)O)C)C | C27H42N2O6S
